US05856326
Step A: 4-tert-Butoxycarbonyl-1-(3-chlorophenyl)-5(S)-(2-fluoroethyl)-piperazin-2-one
4-tert-Butoxycarbonyl-1-(3-chlorophenyl)-5(S)-(2-methylsulfonyloxyethyl)-piperazin-2-one (0.433 g, 1.00 mmol) and tert-butylammonium fluoride (3.0 mL, 1M in THF) were stirred at room temperature in acetonitrile (5 mL) for 72 h. The reaction was quenched with saturated sodium bicarbonate and extracted with ethyl acetate. The organic extracts were dried, concentrated and purified by column chromatography using 20% ethyl acetate in hexane. The title compound was obtained as a thick oil.

reactant | 4-tert-Butoxycarbonyl-1-(3-chlorophenyl)-5(S)-(2-methylsulfonyloxyethyl)-piperazin-2-one | 1.00 mmol, 0.433 g | C(C)(C)(C)OC(=O)N1CC(N(C[C@@H]1CCOS(=O)(=O)C)C1=CC(=CC=C1)Cl)=O | C18H25ClN2O6S
reactant | tert-butylammonium fluoride | 1M, 3.0 mL | [F-].C(C)(C)(C)[NH3+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-tert-Butoxycarbonyl-1-(3-chlorophenyl)-5(S)-(2-fluoroethyl)-piperazin-2-one | C(C)(C)(C)OC(=O)N1CC(N(C[C@@H]1CCF)C1=CC(=CC=C1)Cl)=O | C17H22ClFN2O3
